US05866579
5,6,7,8-Tetrahydro-7-methyl-3-nitro-quinoline.
3-Methylcyclohexanone (0.56 g, 4.99 mmol) was mixed with 1-methyl-3,5-dinitro-2-pyridone (1.00 g, 5.02 mmol) in 1M methanolic ammonia (50 mL, 50 mmol) and heated at reflux overnight. The solvent was evaporated off and the residue was suspended in CHCl3 and flash chromatographed over silica gel (43 g) eluting with EtOAc/hexane (1:10) to afford a white solid (515 mg, 63% yield): mp 55°-56° C.

reactant | 3-Methylcyclohexanone | 4.99 mmol, 0.56 g | CC1CC(CCC1)=O | C7H12O
reactant | 1-methyl-3,5-dinitro-2-pyridone | 5.02 mmol, 1.00 g | CN1C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C6H5N3O5
reactant | ammonia | 50 mmol, 1M, 50 mL | N | H3N
product | 5,6,7,8-Tetrahydro-7-methyl-3-nitro-quinoline | 515 mg, 63% yield | CC1CCC=2C=C(C=NC2C1)[N+](=O)[O-] | C10H12N2O2
